US04430337
cis-2-Ethyl-3-cyclohexene-1-carbaldehyde
A mixture of 1,3-hexadiene (cis/trans mixture, 20 g., 0.24 mole), acrolein (18 ml., 0.27 mole) and hydroquinone (50 mg.) was heated at 70°-75° C. for 22 hours. Distillation in vacuo gave purified title product (21.7 g.; b.p. 90° C./12-15 mm.; 78% cis, 22% trans by pnmr assay).

reactant | 1,3-hexadiene | 0.24 mole, 20 g | C=CC=CCC | C6H10
reactant | acrolein | 0.27 mole, 18 ml | C(=O)C=C | C3H4O
reactant | hydroquinone | 50 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
product | cis-2-Ethyl-3-cyclohexene-1-carbaldehyde | C(C)[C@@H]1[C@@H](CCC=C1)C=O | C9H14O
